US04870180
1-chloro-4-methyl-8-methoxy-5H-pyrido(4,3-b)indole
7 g of 1,2-dihydro-8-methoxy-4-methyl-1-oxo-5H-pyrido(4,3-b)indole is heated in 200 ml of phosphorus oxychloride at reflux for 3 days and the excess of oxychloride is evaporated off under reduced pressure. The residue is taken up in 100 ml of boiling water, the mixture is heated to boiling point for 3 minutes and filtered. The filtrate is alkalized cold with ammonia and the precipitate formed is separated, dried, then recrystallized from acetonitrile, giving 5.8 g of yellow micro-crystalls.

reactant | 1,2-dihydro-8-methoxy-4-methyl-1-oxo-5H-pyrido(4,3-b)indole | 7 g | COC1=CC=2C3=C(NC2C=C1)C(=CNC3=O)C | C13H12N2O2
reactant | phosphorus oxychloride | 200 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-chloro-4-methyl-8-methoxy-5H-pyrido(4,3-b)indole | ClC1=NC=C(C=2NC=3C=CC(=CC3C21)OC)C | C13H11ClN2O
